US04326071
A solution of 2 mmole of 4-amino-4-difluoromethylbutyric acid in 15 ml of dichloromethane is treated with 2 mmole of thionyl chloride at 25° C. for one hour after which 20 ml of ethanol is added. The solution is stirred at 25° C. for one hour, washed with water, dried and concentrated to afford 4-amino-4-difluoromethylbutyric acid ethyl ester.

reactant | 4-amino-4-difluoromethylbutyric acid | 2 mmole | NC(CCC(=O)O)C(F)F | C5H9F2NO2
reactant | thionyl chloride | 2 mmole | S(=O)(Cl)Cl | Cl2OS
reactant | ethanol | 20 ml | C(C)O | C2H6O
solvent | dichloromethane | 15 ml | ClCCl | CH2Cl2
product | 4-amino-4-difluoromethylbutyric acid ethyl ester | C(C)OC(CCC(C(F)F)N)=O | C7H13F2NO2
